US07476670B2
Stage 1: 2-chloro-6-(5,6-dichloro-1H-benzimidazol-1-yl)-9H-purine
567 mg of 2,6-dichloropurine, 6 ml of butanol and 617 mg of 5,6-dichlorobenzimidazole are mixed and brought to a temperature of 100° C. for approximately 24 hours. The mixture is allowed to return to ambient temperature. Partial drying, washing with isopropanol and drying under vacuum at 50° C. are carried out, and 548 mg of expected product are obtained, in the form of gray/black-colored crystals.

reactant | 2,6-dichloropurine | 567 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 5,6-dichlorobenzimidazole | 617 mg | ClC1=CC2=C(N=CN2)C=C1Cl | C7H4Cl2N2
solvent | butanol | 6 ml | C(CCC)O | C4H10O
product | 2-chloro-6-(5,6-dichloro-1H-benzimidazol-1-yl)-9H-purine | 548 mg | ClC1=NC(=C2N=CNC2=N1)N1C=NC2=C1C=C(C(=C2)Cl)Cl | C12H5Cl3N6
